US09399640B2
Step 2. 4-[2-(4-Chlorophenoxy)-4-(methylamino)-3-nitrophenyl]-6-methyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one
This compound was synthesized according to the procedure of Example 1, Step 1, using 4-[2-fluoro-4-(methylamino)-3-nitrophenyl]-6-methyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one and p-chlorophenol as the starting materials. LCMS calculated for C27H32ClN4O5Si (M+H)+: m/z=555.2. found: 555.1.

reactant | 4-[2-fluoro-4-(methylamino)-3-nitrophenyl]-6-methyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | FC1=C(C=CC(=C1[N+](=O)[O-])NC)C=1C2=C(C(N(C1)C)=O)N(C=C2)COCC[Si](C)(C)C | C21H27FN4O4Si
reactant | p-chlorophenol | ClC1=CC=C(C=C1)O | C6H5ClO
product | 4-[2-(4-Chlorophenoxy)-4-(methylamino)-3-nitrophenyl]-6-methyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | ClC1=CC=C(OC2=C(C=CC(=C2[N+](=O)[O-])NC)C=2C3=C(C(N(C2)C)=O)N(C=C3)COCC[Si](C)(C)C)C=C1 | C27H31ClN4O5Si
